US09034921B2
Step 2: 7-Chloro-6-(4-ethoxybenzyl)-3-methoxy-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran
To a mixture solution of 7-chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran-3-ol (260 mg, 0.314 mmole) and iodomethane (40 μL, 0.628 mmole) in DMF (10 mL) was added NaH (25.1 mg, 0.628 mmole) at 0° C. The resulting solution was stirred at rt overnight, diluted with sat. NaHCO3 and extracted with ethyl acetate. The organic layer was washed with water then brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude residue was purified on Biotage® purification apparatus to yield the title compound (238 mg, 90%) as a yellow gum.

reactant | 7-chloro-6-(4-ethoxybenzyl)-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran-3-ol | 0.314 mmole, 260 mg | ClC1=C(C=C(C=2C(COC21)O)C2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)CC2=CC=C(C=C2)OCC | C51H51ClO8
reactant | iodomethane | 0.628 mmole, 40 μL | IC | CH3I
reactant | NaH | 0.628 mmole, 25.1 mg | [H-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 7-Chloro-6-(4-ethoxybenzyl)-3-methoxy-4-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)-2,3-dihydrobenzofuran | 238 mg, 90% | ClC1=C(C=C(C=2C(COC21)OC)C2O[C@@H]([C@H]([C@@H]([C@H]2OCC2=CC=CC=C2)OCC2=CC=CC=C2)OCC2=CC=CC=C2)COCC2=CC=CC=C2)CC2=CC=C(C=C2)OCC | C52H53ClO8
